US08022223B2
Step A: Preparation of 1,2-bis(2-chloro-5-methoxyphenyl)disulfane:
To a solution of 2-bromo-1-chloro-4-methoxybenzene (4.42 g, 19.9 mmol) in THF stirring at −10° C. under nitrogen was added isopropylmagnesium chloride (9.9 mL, 19.9 mmol, 2M in THF). The reaction was allowed to warm to ambient temperature stirred for 4 hours. The reaction was cooled to −40° C. and zinc(II) chloride (19.9 mL, 19.9 mmol, 1M in ether) was added and the solution stirred for 30 minutes. The reaction was cooled to −78° C. and sulfurothioyl dichloride (0.80 mL, 9.9 mmol) was added. After stirring for 15 minutes at −78° C., saturated NH4Cl was added and the mixture was warmed to ambient temperature and extracted multiple times with EtOAc. The combined organic layers were dried with sodium sulfate, filtered, and concentrated to give a residue which was purified by silica chromatography (10% EtOAc in hexanes) to afford the title compound (1.52 g, 21.9% yield).

reactant | 2-bromo-1-chloro-4-methoxybenzene | 19.9 mmol, 4.42 g | BrC1=C(C=CC(=C1)OC)Cl | C7H6BrClO
reactant | isopropylmagnesium chloride | 19.9 mmol, 2M, 9.9 mL | C(C)(C)[Mg]Cl
reactant | sulfurothioyl dichloride | 9.9 mmol, 0.80 mL | S(=O)(=S)(Cl)Cl | Cl2OS2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc(II) chloride | 19.9 mmol, 1M, 19.9 mL | [Cl-].[Zn+2].[Cl-]
product | 1,2-bis(2-chloro-5-methoxyphenyl)disulfane | 1.52 g, 21.9% yield | ClC1=C(C=C(C=C1)OC)SSC1=C(C=CC(=C1)OC)Cl | C14H12Cl2O2S2
